US07495004B2
7-(2-Chloro-6-fluorobenzyl)-3-ethyl-1-methyl-8-piperidin-1-yl-3,7-dihydro-1H-purine-2,6-dione
A solution of 8-bromo-7-(2-chloro-6-fluorobenzyl)-1-methyl-3,7-dihydro-1H-purine-2,6-dione (200 mg, 0.52 mmol) and K2CO3 (86 mg, 0.62 mmol) in 5.2 mL DMF was treated with iodoethane (412 μL, 5.2 mmol). The reaction was stirred at room temperature for 15 hr. The reaction mixture was diluted with H2O, and extracted 3× with 50% EtOAc:hexanes. The organic layers were combined and the solvent removed under reduced pressure (50 mg, 23% yield). The crude product (50 mg, 0.12 mmol) was dissolved in 200 μL DMSO and treated with piperidine (36 μL, 0.36 mmol). The reaction mixture was heated to 100° C. for 15 hr. The reaction mixture was cooled, diluted with H2O, and extracted 3× with 50% EtOAc:hexanes. The organic layers were combined and evaporated under reduced pressure. The crude product was purified by preparative thin layer chromatography (silica gel, 1 mm plate, EM Science 20×20 cm silica gel 60 F264) eluting with EtOAc:hexane (2:3) to give 27 mg (54% yield) of the title compound as a white solid: 1H NMR (CDCl3, 400 MHz) 7.22-7.15 (m, 1H), 7.15-7.11 (m, 1H), 6.98-6.91 (m, 1H), 5.55 (s, 2H), 4.10 (q, 2H, J=7.1 Hz), 3.30 (s, 3H), 3.08-3.01 (m, 4H), 1.53-1.47 (m, 6H), 1.30 (t, 3H, J=7.1 Hz); MS (ESP+) m/e 420 (MH+); TLC (EtOAc:hexanes/1:2) Rf=0.24.

reactant | 8-bromo-7-(2-chloro-6-fluorobenzyl)-1-methyl-3,7-dihydro-1H-purine-2,6-dione | 0.52 mmol, 200 mg | BrC1=NC=2NC(N(C(C2N1CC1=C(C=CC=C1F)Cl)=O)C)=O | C13H9BrClFN4O2
reactant | K2CO3 | 0.62 mmol, 86 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoethane | 5.2 mmol, 412 μL | ICC | C2H5I
reactant | piperidine | 0.36 mmol, 36 μL | N1CCCCC1 | C5H11N
solvent | DMF | 5.2 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | DMSO | 200 μL | CS(=O)C | C2H6OS
product | 7-(2-Chloro-6-fluorobenzyl)-3-ethyl-1-methyl-8-piperidin-1-yl-3,7-dihydro-1H-purine-2,6-dione | 27 mg, 54% yield | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)CC)N2CCCCC2)C(=CC=C1)F | C20H23ClFN5O2
